### PR TITLE
[Merged by Bors] - feat(Finset/Density): A few more lemmas

### PR DESCRIPTION
**Pull request by YaelDillies**
From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Density.lean [hunk 1]
```diff
@@ -102,6 +103,12 @@ lemma dens_map_le [Fintype β] (f : α ↪ β) : dens (s.map f) ≤ dens s := by
   · exact mod_cast Fintype.card_pos
   · exact Fintype.card_le_of_injective _ f.2
 
+@[simp] lemma dens_map_equiv [Fintype β] (e : α ≃ β) : (s.map e.toEmbedding).dens = s.dens := by
+  simp [dens, Fintype.card_congr e]
+
+lemma cast_dens [Semifield 𝕜] [CharZero 𝕜] (s : Finset α) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Density.lean:109]:
```suggestion
lemma nnratCast_dens [Semifield 𝕜] [CharZero 𝕜] (s : Finset α) :
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by YaelDillies** [comment]
bors merge
